US04861769
To a solution of ethyl 2-(2,2-dibromocyclopropyloxyimino)-3,3-ethylenedioxybutyrate (syn isomer)(16.4 g) in benzene (300 ml) was dropwise added tri-n-butyltin hydride (33 ml). To the mixture was added 2,2'-azobisisobutyronitrile (0.5 g) and the resulting mixture was refluxed for 2 hours under nitrogen atmosphere. The mixture was concentrated in vacuo and the residue was subjected to column chromatography on silica gel using a mixture of chloroform and ethyl acetate (4:1 V/V) as an eluent to give ethyl 2-cyclopropyloxyimino-3,3-ethylenedioxybutyrate (syn isomer)(10.36 g) as an oil.

reactant | ethyl 2-(2,2-dibromocyclopropyloxyimino)-3,3-ethylenedioxybutyrate | 16.4 g | BrC1(C(C1)ON=C(C(=O)OCC)C1(C)OCCO1)Br | C11H15Br2NO5
reactant | tri-n-butyltin hydride | 33 ml | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2'-azobisisobutyronitrile | 0.5 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-cyclopropyloxyimino-3,3-ethylenedioxybutyrate | 10.36 g | C1(CC1)ON=C(C(=O)OCC)C1(C)OCCO1 | C11H17NO5
